US05019597
Preparation of N,N-dicyclohexyl-2-propenamide
A solution of dicyclohexylamine (19.92 ml, 0.10 mole) and triethylamine (27.88 ml, 0.20 mole) in ethyl ether (100 ml) was cooled to 0° C. A solution of acryloyl chloride (7.93 ml, 0.1 mole) in ethyl ether (20 ml) was added and the solution was stirred for 12 hours, filtered and concentrated to obtain the product as a solid which was dried in vacuo. The stucture was confirmed by NMR.

reactant | dicyclohexylamine | 0.10 mole, 19.92 ml | C1(CCCCC1)NC1CCCCC1 | C12H23N
reactant | triethylamine | 0.20 mole, 27.88 ml | C(C)N(CC)CC | C6H15N
reactant | acryloyl chloride | 0.1 mole, 7.93 ml | C(C=C)(=O)Cl | C3H3ClO
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 20 ml | C(C)OCC | C4H10O
product | N,N-dicyclohexyl-2-propenamide | C1(CCCCC1)N(C(C=C)=O)C1CCCCC1 | C15H25NO
